US07691877B2
4-Amino-1-benzyl-6-bromo-1,3-dihydro-imidazo[4,5-c]pyridin-2-one
(2-Amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester (50 mg, 0.13 mmol) was dissolved in AcOH (3 ml). Fe powder (43 mg, 0.76 mmol) was added and the mixture was vigorously stirred at room temperature for 24 h. The reaction mixture diluted with EtOAc (20 ml) and water (10 ml). The mixture was filtered through celite, washing through with EtOAc (20 ml). The layers were separated and the organic layer was washed with water (10 ml), sat. NaHCO3 (aq) (2×10 ml) and brine (10 ml), dried over MgSO4 and concentrated in vacuo. The crude was triturated in pentane, filtered and dried in vacuo at 40° C. to give the title compound (15 mg) as a beige solid.

reactant | (2-Amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 0.13 mmol, 50 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C15H15BrN4O4
solvent | AcOH | 3 ml | CC(=O)O | C2H4O2
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
solvent | water | 10 ml | O | H2O
catalyst | Fe | 0.76 mmol, 43 mg | [Fe] | Fe
product | 4-Amino-1-benzyl-6-bromo-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | 15 mg | NC1=NC(=CC2=C1NC(N2CC2=CC=CC=C2)=O)Br | C13H11BrN4O
